US08039490B2
AG N-[trans-4-(2-Oxo-ethyl)-cyclohexyl]-acetamide
DMSO (3.68 g, 47 mmol) in CH2Cl2 (20 ml) was added at −78° C. to a stirred solution of oxalylchloride (2.9 g, 23 mmol) in CH2Cl2 (100 ml). After 1 h stirring at −78° C. a solution of N-[trans-4-(2-hydroxy-ethyl)-cyclohexyl]-acetamide (2.18 g, 12 mmol) in CH2Cl2 (80 ml) was added followed after 2 h by Et3N (7.14 g, 71 mmol). The mixture was allowed to reach room temperature and was then diluted with H2O and extracted with CH2Cl2. The combined organic layers were dryed (Na2SO4) and the solvent was evaporated to afford the crude product. Chromatography (CH2Cl2/MeOH 95:5) yielded 1.75 g (81%, 9.5 mmol) of a light brown solid. MS (m/z): 184.3 ([M+H]+).

reactant | DMSO | 47 mmol, 3.68 g | CS(=O)C | C2H6OS
reactant | oxalylchloride | 23 mmol, 2.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[trans-4-(2-hydroxy-ethyl)-cyclohexyl]-acetamide | 12 mmol, 2.18 g | OCC[C@@H]1CC[C@H](CC1)NC(C)=O | C10H19NO2
reactant | Et3N | 71 mmol, 7.14 g | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | N-[trans-4-(2-Oxo-ethyl)-cyclohexyl]-acetamide | 9.5 mmol, 1.75 g, 81% | O=CC[C@@H]1CC[C@H](CC1)NC(C)=O | C10H17NO2
